US07674795B2
Stir, at room temperature under argon, a mixture of 1.13 g of 4-(6-bromo-1H-benzimidazol-2-yl)-9H-fluoren-9-one, 0.628 g of hydroxylamine hydrochloride and 1.24 g of sodium acetate in 50 ml of ethanol. The following day, evaporate the reaction medium to dryness under vacuum, take the residue up with 100 ml of water, filter off the solid, and then wash it with 100 ml of water. After drying at 40° C. under vacuum, we obtain 1.17 g of 4-(6-bromo-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z, E), with the following characteristics:

reactant | 4-(6-bromo-1H-benzimidazol-2-yl)-9H-fluoren-9-one | 1.13 g | BrC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=O)C1 | C20H11BrN2O
reactant | hydroxylamine hydrochloride | 0.628 g | Cl.NO
reactant | sodium acetate | 1.24 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(6-bromo-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | 1.17 g | BrC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C1 | C20H12BrN3O
